US07754737B2
To a 50 mL round bottom flask were added the TFA salt of (R)-tert-butyl 3-((S)-4-amino-1-(3-chlorophenyl)-1-hydroxybutyl)piperidine-1-carboxylate (0.0803 g, 0.16 mmol, 1.0 equiv), sulfamide (0.2368 g, 2.46 mmol, 15 equiv), 1,4-dioxane (5 mL) and DIEA (1 mL). The resulting mixture was heated at 110° C. for 2 h. After the solvents were removed in vacuo, the residue was purified by reversed-phase HPLC (Phenomenex® Luna 5μ C18(2) 100 A, 250×21.20 mm, 5 micron, 70%→90% CH3CN/H2O, 0.1% CF3COOH over 8 min and then 90% CH3CN/H2O, 0.1% CF3COOH over 1.5 min, flow rate 25 mL/min) to give 0.0438 g (59%) of (R)-tert-butyl 3-((S)-4-(aminosulfonylamino)-1-(3-chlorophenyl)-1-hydroxybutyl)piperidine-1-carboxylate. LC-MS (3 min) tR=1.74 min, m/z 486, 484 (MNa+), 362.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-tert-butyl 3-((S)-4-amino-1-(3-chlorophenyl)-1-hydroxybutyl)piperidine-1-carboxylate | 0.16 mmol, 0.0803 g, 1.0 equiv | NCCC[C@@](O)(C1=CC(=CC=C1)Cl)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C20H31ClN2O3
reactant | sulfamide | 2.46 mmol, 0.2368 g, 15 equiv | S(=O)(=O)(N)N | H4N2O2S
reactant | DIEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (R)-tert-butyl 3-((S)-4-(aminosulfonylamino)-1-(3-chlorophenyl)-1-hydroxybutyl)piperidine-1-carboxylate | 0.0438 g, 59% | NS(=O)(=O)NCCC[C@@](O)(C1=CC(=CC=C1)Cl)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C20H32ClN3O5S
